US05021420
The experiment is carried out as in Example 1, starting with 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (5.3 g), triethylamine (3 cc) and 4-(1,2-benzisoxazol-3-yl)piperazine (4 g) and sodium iodide (3 g) in dimethylformamide (60 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on silica gel, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling acetonitrile (22 cc), 2-{2-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2.3 g) is obtained, m.p. 148° C.

reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 5.3 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | triethylamine | 3 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(1,2-benzisoxazol-3-yl)piperazine | 4 g | O1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3O
reactant | sodium iodide | 3 g | [I-].[Na+]
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 2-{2-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.3 g | O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCN2S(C=1C3=C2C=CC=C3C=CC1)(=O)=O | C23H22N4O3S
